US05039331
20.5 g of 2,5-difluoroaniline was dissolved in 68 ml of benzene, and 17.8 g of acetic anhydride was dropwise added. Fifteen hours later, benzene was distilled off, and the residue was washed with ethyl ether to obtain 25.6 g of 2,5-difluoroacetanilide as white crystals. Then, this compound was dissolved in 98% sulfuric acid, and 60% nitric acid was dropwise added at a temperature of not higher than 0° C. After the dropwise addition, the mixture was stirred for three hours at room temperature, and poured on ice. Precipitated crystals were collected by filtration and dried to obtain 25.9 g of the above-identified compound as yellow crystals.

reactant | 2,5-difluoroaniline | 20.5 g | FC1=C(N)C=C(C=C1)F | C6H5F2N
reactant | acetic anhydride | 17.8 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | benzene | 68 ml | C1=CC=CC=C1 | C6H6
product | 2,5-difluoroacetanilide | 25.6 g | CC(=O)NC1=C(C=CC(=C1)F)F | C8H7F2NO
